US08497281B2
Step 3: 1-benzyl-4-methyl-2,3,9,9a-tetrahydro-1H-indeno[2,1-b]pyridine
Sodium borohydride (0.15 g) is added to a suspension of 1-benzyl-4-methyl-9H-indeno[2,1-b]pyridinium bromide (0.92 g) in ethanol (10 mL) chilled in an ice bath. The cooling bath is removed and the mixture is stirred at room temperature for 1 h and at 60° C. for 2 h. More sodium borohydride (0.18 g) is added and stirring is continued at reflux temperature for 4 h. After the addition of another portion of sodium borohydride (0.10 g), the mixture is stirred at reflux temperature overnight. After cooling to room temperature, ice-cold water is added and the precipitate is separated by filtration. The precipitate is dissolved in ether, the resulting solution is dried (Na2SO4), and the solvent is evaporated to afford the crude product that is used without further purification. Yield: 0.66 g (crude); Mass spectrum (ESI+): m/z=276 [M+H]+.

reactant | Sodium borohydride | 0.15 g | [BH4-].[Na+]
reactant | 1-benzyl-4-methyl-9H-indeno[2,1-b]pyridinium bromide | 0.92 g | [Br-].C(C1=CC=CC=C1)[N+]1=C2C(=C(C=C1)C)C=1C=CC=CC1C2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-benzyl-4-methyl-2,3,9,9a-tetrahydro-1H-indeno[2,1-b]pyridine | C(C1=CC=CC=C1)N1C2C(=C(CC1)C)C=1C=CC=CC1C2 | C20H21N
